US07153958B2
2-(4-chlorophenyl)-2-(4-nitrophenyl)-1,3-dioxolane (prepared as described in WO 97/21701) (0.0373 mol) was added to a vigorously stirring mixture of benzene acetonitrile (0.041 mol) and NaOH (0.186 mol) in methanol (37.3 ml) (an exothermic effect was observed and the temperature rose to 45° C.) and the mixture was stirred vigorously for 20 h. The mixture was diluted with water and filtered off. The precipitate was washed with water and a few methanol and dried. A part (3.5 g) of the residue (10.59 g, 75%) was purified by column chromatography over silica gel (eluent: DCM). The pure fractions were collected and evaporated. The residue (2.94 g) was crystallized from DIPE, yielding 2.3 g of 5-[2-(4-chlorophenyl)-1,3-dioxolan-2-yl]-3-phenyl-2,1-benzisoxazole, mp. 143.4° C. (intermediate 23).

reactant | 2-(4-chlorophenyl)-2-(4-nitrophenyl)-1,3-dioxolane | 0.0373 mol | ClC1=CC=C(C=C1)C1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12ClNO4
reactant | benzene acetonitrile | 0.041 mol | C1(=CC=CC=C1)CC#N | C8H7N
reactant | NaOH | 0.186 mol | [OH-].[Na+]
solvent | methanol | 37.3 ml | CO | CH4O
solvent | water | O | H2O
product | 5-[2-(4-chlorophenyl)-1,3-dioxolan-2-yl]-3-phenyl-2,1-benzisoxazole | 2.3 g | ClC1=CC=C(C=C1)C1(OCCO1)C=1C=CC=2C(=C(ON2)C2=CC=CC=C2)C1 | C22H16ClNO3
